US08003785B2
To a mixture of 1.07 g (3.78 mmole) of 4-amino-3-methoxy-benzoic acid benzotriazol-1-yl ester, 0.90 g (3.78 mmole) of 1-(2,2-difluoro-ethyl)-piperidin-4-ylamine dihydrochloride and 5 mL of dimethylformamide was added 2.63 mL of triethylamine. The mixture was stirred for 20 hours, then taken up in dichloromethane and washed twice with 100 mL of saturated aqueous sodium bicarbonate, once with 50 mL water, once with 50 mL brine, dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure. The residue was purified by silica gel chromatography, eluting with dichloromethane-methanol (gradient, 100:0-90:10) to give 1.05 g of 4-amino-N-[1-(2,2-difluoro-ethyl)-piperidin-4-yl]-3-methoxy-benzamide.

reactant | 4-amino-3-methoxy-benzoic acid benzotriazol-1-yl ester | 3.78 mmole, 1.07 g | N1(N=NC2=C1C=CC=C2)OC(C2=CC(=C(C=C2)N)OC)=O | C14H12N4O3
reactant | 1-(2,2-difluoro-ethyl)-piperidin-4-ylamine dihydrochloride | 3.78 mmole, 0.90 g | Cl.Cl.FC(CN1CCC(CC1)N)F
reactant | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
reactant | triethylamine | 2.63 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | ClCCl | CH2Cl2
product | 4-amino-N-[1-(2,2-difluoro-ethyl)-piperidin-4-yl]-3-methoxy-benzamide | 1.05 g | NC1=C(C=C(C(=O)NC2CCN(CC2)CC(F)F)C=C1)OC | C15H21F2N3O2
